* Netlist from butter.asc
* JAS - edited 'I' elements 'I1 0 N001 AC 1.' -> 'I1 0 N001 1 AC=1.'  (invalid syntax per docs)
I1 0 N001 1 AC=1.
I2 0 N005 1 AC=1.
I3 0 N009 1 AC=1.
I4 0 N013 1 AC=1.
R1 N001 0 1
C4 N004 N003 1.125
C5 OUT1 0 .3396
C2 N002 N001 1.125
C3 N003 0 1.099
C1 N001 0 .3396
C9 N008 N007 .9785
C10 OUT2 0 .3903
C7 N006 N005 .9785
C8 N007 0 1.263
C6 N005 0 .3903
C14 N012 N011 .8103
C15 OUT3 0 .4714
C12 N010 N009 .8103
C13 N011 0 1.526
C11 N009 0 .4714
C19 N016 N015 .6177
C20 OUT4 0 .6177
C17 N014 N013 .6177
C18 N015 0 2
C16 N013 0 .6177
L4 N004 OUT1 .8890
L5 OUT1 0 2.945
L2 N002 N003 .8890
L3 N003 0 .9099
L1 N001 0 2.945
L9 N008 OUT2 1.022
L10 OUT2 0 2.562
L7 N006 N007 1.022
L8 N007 0 .7918
L6 N005 0 2.562
L14 N012 OUT3 1.234
L15 OUT3 0 2.1213
L12 N010 N011 1.234
L13 N011 0 .6553
L11 N009 0 2.1213
L19 N016 OUT4 1.617
L20 OUT4 0 1.617
L17 N014 N015 1.617
L18 N015 0 .5
L16 N013 0 1.617
R2 OUT1 0 1
R3 N005 0 1
R4 OUT2 0 1
R5 N009 0 1
R6 OUT3 0 1
R7 N013 0 1
R8 OUT4 0 1
.ac oct 50 .01 3
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
